US06162926
N-tritylglycine was prepared in 90% yield from trityl chloride and glycine according to the procedure of Zervas et al., J. Am. Chem. Soc. 78:1359 (1956).

reactant | trityl chloride | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | glycine | NCC(=O)O | C2H5NO2
product | N-tritylglycine | 90% yield | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NCC(=O)O | C21H19NO2
